2141-01-30 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-1-29**] 05:00 PM
 MULTI LUMEN - START [**2141-1-29**] 05:16 PM
 EKG - At [**2141-1-29**] 06:31 PM
 EKG - At [**2141-1-29**] 07:00 PM
 EKG - At [**2141-1-29**] 08:05 PM
 EKG - At [**2141-1-29**] 09:05 PM
 EKG - At [**2141-1-29**] 09:56 PM
 EKG - At [**2141-1-29**] 11:00 PM
 EKG - At [**2141-1-30**] 12:05 AM
 EKG - At [**2141-1-30**] 06:12 AM
 PAN CULTURE - At [**2141-1-30**] 06:12 AM
 FEVER - 101.2
F - [**2141-1-30**] 04:00 AM
   - Attempted arterial line placement, but patient fighting, despite
   propofol boluses
   - Spiked temp to 101.2, blood/urine cultures sent
   - Gave 500 cc bolus for UOP < 25 cc/hr
   Allergies:
   Penicillin G
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-30**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 107 (75 - 107) bpm
   BP: 93/67(72) {65/26(37) - 109/76(86)} mmHg
   RR: 19 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    455 mL
                                                                    897 mL
   PO:
             TF:
   IVF:
                                                                    455 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    465 mL
   Urine:
                                                                    470 mL
                                                                    165 mL
   NG:
                                                                    300 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 597 (597 - 597) mL
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   Compliance: 47.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/32/205/22/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 512
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   293 K/uL
   11.6 g/dL
   151 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   7 mg/dL
   108 mEq/L
   141 mEq/L
   34.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2141-1-29**]  06:26 PM
                             [**2141-1-29**]  09:04 PM
                             [**2141-1-30**]  03:10 AM
   WBC
   12.5
   12.0
   Hct
   35.1
   34.9
   Plt
   276
   293
   Cr
   0.8
   0.8
   TCO2
   22
   Glucose
   129
   151
   Other labs: PT / PTT / INR:13.6/37.0/1.2, ALT / AST:[**11-1**], Alk Phos / T
   Bili:52/0.5, Differential-Neuts:70.1 %, Lymph:24.9 %, Mono:4.1 %,
   Eos:0.6 %, Lactic Acid:1.7 mmol/L, LDH:214 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: [**1-29**] CXR: An ET tube is present, in satisfactory position
   approximately 3.5 cm above the
   carina. An NG tube is present. The tip overlies the gastric fundus.
   However,
   the side port overlies the lower esophagus. Compared with earlier the
   same
   day, a new left IJ central line is present -- the tip overlies proximal
   SVC.
   No pneumothorax is detected.
   There is borderline cardiomegaly with left ventricular configuration.
   Possible
   prominence of the main pulmonary artery, though there is some overlying
   tubing. There is a small left effusion, with left lower lobe collapse
   and/or
   consolidation, unchanged. There is also atelectasis at the right base.
   Some
   pleural parenchymal scarring at the right lung apex is noted. There is
   mild
   pulmonary vascular plethora, more pronounced compared with earlier the
   same
   day, suggesting mild fluid overload. No right-sided effusion is
   identified. An
   IV-type catheter overlies the right upper chest near the apex, of
   uncertain
   etiology or significance.
   Microbiology: [**1-29**] BCx: Pending
   [**1-30**] UCx: pending
   Assessment and Plan
   54 yo f with hx of depression and prior suicide attempts, now with AMS
   and hypotension in setting of new onset seizures likely [**1-17**] to
   medicaion overdose.
   .
   # AMS/Seizure/Mechanical ventilation: Presumed ingestion of clonidine,
   citalopram, hydroxizine, and trazadone tablets, +/- husband
   narcotics. Mild clonus on exam concerning for possible serotonin
   syndrome, given SSRI ingestion. No severe derangements on chem10.
   - keep intubated for now, will not pursue SBT/extubation, given run of
   wide-complex tachycardia (see below) and likely inability to protect
   airway if WCT recurs
   - neuro checks Q2H
   - f/u oxycodone screen
   - ativan PRN for sz activity
   - trend lytes and LFTs
   - toxicology recs appreciated
   - holding home meds
   - sw c/s for family
   - psych c/s once extubated
   .
   # Hypotension: As above, presumed clonidine intake, now on Propofol
   gtt. BP may increase and pressor requirement may decrease as Propofol
   weaned. Gave fluid boluses overnight.
   - levophed gtt for MAP>65
   .
   # Arrhythmia: Per OSH records, pt had VT and required 4 shocks. The
   strip from the OSH did seem consistent with VT. Had burst of wide
   complex tachycardia this morning, resolved with Bicarb infusion.
   Possibly [**1-17**] delayed absorption of one or more of overdosed medications
   e.g. trazodone.
   - EKG for repeated episodes of WCT
   - Recheck routine EKG this afternoon
   - Bicarb drip @ 200 cc/hr x 24 hrs, per toxicology recs
   - monitor on tele
   - monitor lytes
   - will check frequent EKGs tonight, Q1H for 6 hours
   .
   # Leukocytosis/fever: Cultures sent. Possibly [**1-17**]
   cardioversions/seizure, vs infection. While hypotensive, will treat
   with antibiotics for sepsis picture.  Was given vanco and zosyn in ER.
   High risk for aspiration, given altered MS.
   - Treat empirically with ceftriaxone for now
   - F/u cultures
   - avoiding levaquin so as to not lower seizure threshold
   .
   # Asthma: stable
   - will restart advair once extubated and stable
   .
   # FEN: NPO for now, has NGT
   # PPhx: sq hep
   # COMMUNICATION: husband- h- [**Telephone/Fax (1) 13324**], c[**Telephone/Fax (1) 13325**]
   # Access: IJ, 5 PIV,
   # Code status: full, confirmed
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-29**] 05:16 PM
   20 Gauge - [**2141-1-29**] 07:40 PM
   18 Gauge - [**2141-1-29**] 07:40 PM
   RIC - [**2141-1-29**] 07:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-01-30 09:29:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: multi-drug overdose, hypotension, VT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-1-29**] 05:00 PM
 MULTI LUMEN - START [**2141-1-29**] 05:16 PM
 Serial EKGs to follow QRS interval
 PAN CULTURE - At [**2141-1-30**] 06:12 AM
 FEVER - 101.2
F - [**2141-1-30**] 04:00 AM
 Fluid bolus for low UOP
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillin G
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-30**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.3
   HR: 105 (75 - 107) bpm
   BP: 105/80(86) {65/26(37) - 109/80(86)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    455 mL
                                                                  1,085 mL
   PO:
             TF:
   IVF:
                                                                    455 mL
                                                                  1,085 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    558 mL
   Urine:
                                                                    470 mL
                                                                    258 mL
   NG:
                                                                    300 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 597 (597 - 597) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 47.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/32/205/22/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 512
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: No spontaneous movement, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   293 K/uL
   151 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   7 mg/dL
   108 mEq/L
   141 mEq/L
   34.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2141-1-29**]  06:26 PM
                             [**2141-1-29**]  09:04 PM
                             [**2141-1-30**]  03:10 AM
   WBC
   12.5
   12.0
   Hct
   35.1
   34.9
   Plt
   276
   293
   Cr
   0.8
   0.8
   TCO2
   22
   Glucose
   129
   151
   Other labs: PT / PTT / INR:13.6/37.0/1.2, ALT / AST:[**11-1**], Alk Phos / T
   Bili:52/0.5, Differential-Neuts:70.1 %, Lymph:24.9 %, Mono:4.1 %,
   Eos:0.6 %, Lactic Acid:1.7 mmol/L, LDH:214 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   54F h/o depression with multi-drug overdose apparent seizure, episode
   of unstable VT requiring shocked x 3 to return NSR
   Multi-drug overdose
   -received charcoal
   -toxicology following
   -QRS interval shortening, can [**Month (only) **] interval of EKGs
   -no further runs VT
   Hypotension
   -still requiring levophed for bp support. wean as able
   -presumed due to antihypertensive [**Doctor Last Name **]
   Resp failure
   -likely can be extubated in morning once meds wearing off
   -?RLL infiltrate possible aspiration
   -febrile with hypotension (though might well be due to overdose meds)
   and infiltrate so reasonable to empiricially cover her with abx though
   if no further corroborating information would have low threshold to
   peal back.
   -SBT to assess for possible extubation
   VT
   -tele
   -monitor QRS serial ECGs
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-29**] 05:16 PM
   20 Gauge - [**2141-1-29**] 07:40 PM
   18 Gauge - [**2141-1-29**] 07:40 PM
   RIC - [**2141-1-29**] 07:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-01-31 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2141-1-30**] 10:20 AM
 ARTERIAL LINE - START [**2141-1-30**] 03:13 PM
 EKG - At [**2141-1-30**] 05:49 PM
 EKG - At [**2141-1-31**] 12:50 AM
 EKG - At [**2141-1-31**] 04:03 AM
   .
   - Attempted arterial line placement, but patient fighting, despite
   propofol boluses; ultimately, femoral Aline placed
   - Spiked temp to 101.2, blood/urine cultures sent
   - Levoquin can increase QRS so Vanc/CTX today for ?aspiration on CXR
   and temps --> switched to Vanc/Levo/Aztreonam with GPC/GN diplococci in
   sputum and PCN/Sulfa allergy
   ** Apparently got Zosyn in ED w/o issues --> rediscuss on rounds
   - Lactate 1
 3.7/3.1
 1.3
   - in AM, went into wide complex tachycardia at rate of 160, BP stable
   at 100s, pushed 1 amp of bicarb, QRS narrowed in a few seconds to
   83msec and rate improved to low 100s, pt was started on a bicarb gtt,
   and will need to stay on it for 24 hours per tox. Pacer pads in place
   - tox recs: Give more charcoal, frequent EKGs, bicarb gtt at 150 to
   narrow QRS <100 (likely due to trazodone)
   - Had episode of sinus tach to 110s ON, EKG showed LBBB vs.
   Intraventricular Cardiac Disturbance (IVCD) with QRS 122. CE normal,
   cards aware. Repeat EKG three hours later back to baseline.
   Aggressively repleting lytes.
   - PSV
 CMV given WCT, goal to decrease bicarb gtt to minimize
   alkalosis
   .
   - Gave 500 cc bolus for UOP < 25 cc/hr
   - CVP: [**10-28**]
   - Social work consult ordered; psych c/s and 1:1 sitter when extubated
   Allergies:
   Penicillin G
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-1-30**] 11:30 AM
   Vancomycin - [**2141-1-30**] 07:55 PM
   Levofloxacin - [**2141-1-30**] 09:12 PM
   Aztreonam - [**2141-1-30**] 10:50 PM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2141-1-30**] 10:26 AM
   Heparin Sodium (Prophylaxis) - [**2141-1-30**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-31**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38
C (100.4
   HR: 97 (88 - 159) bpm
   BP: 99/61(75) {99/61(75) - 126/83(96)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 63.1 kg
    CVP: 10 (8 - 18)mmHg
   Total In:
                                                                  6,370 mL
                                                                  1,217 mL
   PO:
   TF:
   IVF:
                                                                  6,320 mL
                                                                  1,217 mL
   Blood products:
   Total out:
                                                                  2,618 mL
                                                                  1,950 mL
   Urine:
                                                                  2,318 mL
                                                                  1,850 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,752 mL
                                                                   -733 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 264 (264 - 264) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.50/39/138/27/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 345
   Physical Examination
   * Per nursing, follows commands during wake up sessions
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   205 K/uL
   11.2 g/dL
   132 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   3 mg/dL
   102 mEq/L
   137 mEq/L
   33.3 %
   9.2 K/uL
        [image002.jpg]
   BCx X4 NGTD
   UCX NGTD
   Sputum gram stain: GPC in pairs and clusters, GN diplococci, Sputum cx
   NGTD
                             [**2141-1-30**]  03:10 AM
                             [**2141-1-30**]  10:22 AM
                             [**2141-1-30**]  03:32 PM
                             [**2141-1-30**]  04:28 PM
                             [**2141-1-30**]  04:47 PM
                             [**2141-1-30**]  05:10 PM
                             [**2141-1-30**]  10:29 PM
                             [**2141-1-31**]  01:04 AM
                             [**2141-1-31**]  03:37 AM
                             [**2141-1-31**]  03:54 AM
   WBC
   12.0
   10.6
   11.0
   9.2
   Hct
   34.9
   34.2
   32.7
   33.3
   Plt
   293
   251
   245
   205
   Cr
   0.8
   0.7
   0.6
   0.5
   TropT
   0.04
   0.03
   0.05
   TCO2
   29
   26
   26
   30
   31
   Glucose
   151
   140
   178
   149
   132
   Other labs: PT / PTT / INR:14.7/40.3/1.3, CK / CKMB /
   Troponin-T:288/2/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:52/0.5,
   Amylase / Lipase:/13, Differential-Neuts:70.1 %, Lymph:24.9 %, Mono:4.1
   %, Eos:0.6 %, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:175 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   54 yo f with hx of depression and prior suicide attempts, now with AMS
   and hypotension in setting of new onset seizures likely [**1-17**] to
   medicaion overdose.
   .
   # AMS/Seizure/Mechanical ventilation: Presumed ingestion of clonidine,
   citalopram, hydroxizine, and trazadone tablets, +/- husband
   narcotics. Mild clonus on exam concerning for possible serotonin
   syndrome, given SSRI ingestion. No severe derangements on chem10
   although requiring aggressive lytes repletion
   - keep intubated for now, may pursue SBT/extubation although had run of
   wide-complex tachycardia (see below, risk of inability to protect
   airway)
   - neuro checks Q2H
   - f/u oxycodone/hydroxyzine screen
   - ativan PRN for sz activity
   - trend lytes and LFTs
   - toxicology recs appreciated
   - holding home meds
   - sw c/s for family
   - psych c/s once extubated with likely 1:1 sitter
   .
   # Hypotension: As above, presumed clonidine intake, now on Propofol
   gtt. BP may increase and pressor requirement may decrease as Propofol
   weaned.
   - levophed gtt for MAP>65
 will attempt to wean today
   .
   # Arrhythmia: Per OSH records, pt had VT and required 4 shocks. The
   strip from the OSH did seem consistent with VT. Had burst of wide
   complex tachycardia yesterday, resolved with Bicarb infusion. Possibly
   [**1-17**] delayed absorption of one or more of overdosed medications e.g.
   trazodone. Also had Sinus Tach w/ IVCD vs. LBBB overnight.
   - Recheck routine EKG this afternoon
   - Bicarb drip @ 125 cc/hr x 24 hrs, per toxicology recs
 will try to
   discontinue this morning
   - monitor on tele
   - monitor lytes and aggressively replete
   .
   # Leukocytosis/fever: Sputum gram stain showed GPC and GNdiplococci.
   Had been given Vanc/Zosyn in ER without issues. Supposed PCN/Sulfa
   allergy so started on Vanc/Aztreonam/Levo. Likely aspiration during
   cardioversion/seizure/intubation.
   - Will monitor carefully for sepsis, UOP >30cc/hr, MAP>65
   - Continue Levophed for now
   - Consider switching back to Vanc/Zosyn, as levofloxacin can lower
   seizure threshold
   - Follow-up blood, urine and sputum cultures
   .
   # Asthma: Stable
   - will restart advair once extubated and stable
   .
   # FEN: NPO for now, has NGT
   # PPhx: sq hep
   # COMMUNICATION: husband- h- [**Telephone/Fax (1) 13324**], c[**Telephone/Fax (1) 13325**]
   # Access: IJ, 5 PIV,
   # Code status: full, confirmed
   # Dispo: ICU for now
 CARDIAC DYSRHYTHMIA OTHER
 POISONING / OVERDOSE, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-29**] 05:16 PM
   Arterial Line - [**2141-1-30**] 03:13 PM
   20 Gauge - [**2141-1-30**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-02-01 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2141-1-31**] 06:00 PM
   .
   - q4 ABGs look good, mild tachypnea
   - normal afternoon EKG
   - PM lytes wnl, lactate normal
   - GI: no bezoar on EGD
   - SBT in AM, RSBI 80; PSV 5/5
   Allergies:
   Penicillin G
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-1-30**] 11:30 AM
   Levofloxacin - [**2141-1-30**] 09:12 PM
   Aztreonam - [**2141-1-30**] 10:50 PM
   Vancomycin - [**2141-1-31**] 08:08 PM
   Meropenem - [**2141-2-1**] 05:50 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-31**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.4
   HR: 77 (77 - 109) bpm
   BP: 104/59(76) {104/58(75) - 136/78(99)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.2 kg (admission): 63.1 kg
    CVP: 13 (8 - 264)mmHg
   Total In:
                                                                  4,776 mL
                                                                  1,319 mL
   PO:
   TF:
   IVF:
                                                                  4,776 mL
                                                                  1,319 mL
   Blood products:
   Total out:
                                                                  5,655 mL
                                                                  1,085 mL
   Urine:
                                                                  5,255 mL
                                                                    985 mL
   NG:
                                                                    400 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -879 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 359 (320 - 474) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.47/46/145/30/9
   Ve: 6.4 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   218 K/uL
   10.0 g/dL
   109 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.5 mEq/L
   3 mg/dL
   104 mEq/L
   139 mEq/L
   30.2 %
   7.7 K/uL
        [image002.jpg]
   Blood cultures NGTD
   Urine Cx NGTD
   Sputum: Moderate commensal flora in culture, GPC/GNdiplococci in gram
   stain
                             [**2141-1-31**]  11:14 AM
                             [**2141-1-31**]  01:04 PM
                             [**2141-1-31**]  03:41 PM
                             [**2141-1-31**]  04:36 PM
                             [**2141-1-31**]  07:16 PM
                             [**2141-1-31**]  07:34 PM
                             [**2141-1-31**]  11:42 PM
                             [**2141-2-1**]  12:18 AM
                             [**2141-2-1**]  03:44 AM
                             [**2141-2-1**]  03:56 AM
   WBC
   7.7
   Hct
   30.2
   Plt
   218
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   32
   31
   34
   33
   34
   Glucose
   116
   114
   116
   115
   109
   Other labs: PT / PTT / INR:13.2/41.4/1.1, CK / CKMB /
   Troponin-T:291/3/0.04, ALT / AST:[**8-27**], Alk Phos / T Bili:52/0.5,
   Amylase / Lipase:/13, Differential-Neuts:70.1 %, Lymph:24.9 %, Mono:4.1
   %, Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:175 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   54F with AMS and hypotension in setting of new onset seizures likely
   [**1-17**] to presumed ingestion of clonidine, citalopram, hydroxizine, and
   trazadone tablets, +/- husband
s narcotics.
   # AMS: SBT and extubation likely today
   - neuro checks Q2H
   - f/u oxycodone/hydroxyzine screen
   - ativan PRN for sz activity
   - trend electrolytes every 8 hours and LFTs daily; also trend ABGs
   every 8 hours per below
   - Appreciate toxicology following: Wil decrease bicarb gtt to half and
   try to wean off today
   - SW consult for family
 already saw husband; will need psych consult
   once extubated and 1:1 sitter
   .
   # Arrhythmia: Bicarb gtt off. QRS within normal limits. No bezoar seen
   by GI on EGD
   - Recheck routine EKG this afternoon ([**Hospital1 7**])
   - Will check ABGs q8 hours with lactate and ionized calcium; goal
   pH<7.5
   - monitor on telemetry
   - monitor lytes and aggressively replete per above
   # Parapneumonic effusion: Seen on CXR, likely in setting of RML/RLL
   aspiration
   - Will check volume with ultrasound
   - Thoracentesis if sufficient volume to tap
   # Suicidal Ideation: Presumed
   - sw c/s for family
   - psych c/s once extubated with likely 1:1 sitter
   # Hypotension: Presumed [**1-17**] clonidine intake, now on Propofol gtt. BP
   may increase and pressor requirement may decrease as Propofol weaned.
   Levophed gtt for MAP>65 weaned and now off >24 hours
   - Will continue to monitor
   - Goal UOP>30cc/hr, MAP>65
   .
   # Leukocytosis/fever: Sputum gram stain showed GPC and GNdiplococci..
   Likely aspiration during cardioversion/seizure/intubation. WBC
   gradually improving
   - Monitor for sepsis, UOP >30cc/hr, MAP>65
   - On Vanc/Meropenem Day [**2-20**] given concerns for lowering seizure
   threshold and widening QRS (as pt already has); increased Vancomycin
   - Follow-up blood, urine cultures
   # Swollen L hand: Likely [**1-17**] IV attempts. No evidence of cellulites.
   - monitor
   - warm packs, elevation
   .
   # Asthma: Stable
   - Off home meds
   .
   # FEN: NPO for now, has NGT for suctioning only. If extubated today,
   will swallow trial at bedside and possibly advance diet or start TPN
   # PPhx: sq hep
   # COMMUNICATION: husband- h- [**Telephone/Fax (1) 13324**], c[**Telephone/Fax (1) 13325**]
   # Access: IJ, Aline (femoral), 20 gauge PIV
   # Code status: full, confirmed
   # Dispo: ICU for now
 intubated, sedated
 CARDIAC DYSRHYTHMIA OTHER
 POISONING / OVERDOSE, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-29**] 05:16 PM
   Arterial Line - [**2141-1-30**] 03:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-02-02 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-2-1**] 12:15 PM
 ARTERIAL LINE - STOP [**2141-2-1**] 08:48 PM
   .
   - Off pressors and extubated. SBP110s --> femoral Aline d/c'd
   - Delirious still per psych but swallowing well --> diet advanced to
   clears, regular
   - Toxicology recs: [**12-17**] bicarb gtt --> weaned to off, q1hr EKGs within
   normal limits (QRS<80, QTc<470)
   - ABG at 3pm - 7.50/42/103/34
   - Psych: Consider restarting Risperdal qHS; hold other psych meds; 1:1
   suicide precautions; cannot leave AMA
   - PM Hct 29.9 (from 30.2)
   - Abx stop dates put in ([**2-5**]) --> goal 8 days; increased Vanc dose
   given low trough
   Allergies:
   Penicillin G
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-1-30**] 11:30 AM
   Levofloxacin - [**2141-1-30**] 09:12 PM
   Aztreonam - [**2141-1-30**] 10:50 PM
   Vancomycin - [**2141-2-1**] 07:37 PM
   Meropenem - [**2141-2-2**] 05:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-2-1**] 04:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-2**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 84 (80 - 97) bpm
   BP: 95/61(69) {92/57(66) - 103/66(74)} mmHg
   RR: 20 (9 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.2 kg (admission): 63.1 kg
   Height: 64 Inch
    CVP: 15 (7 - 334)mmHg
   Total In:
                                                                  3,137 mL
                                                                    680 mL
   PO:
                                                                    540 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,597 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    765 mL
   Urine:
                                                                  2,840 mL
                                                                    765 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    197 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (322 - 322) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 2%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.50/42/103/31/8
   Ve: 8.3 L/min
   PaO2 / FiO2: 5,150
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Left upper extremity 1+ edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   161 K/uL
   9.8 g/dL
   93 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   29.4 %
   6.8 K/uL
        [image002.jpg]
   Blood cultures NGTD X4
   Cdiff negative
   Sputum gram stain GPC/GNdiplococci but moderate commensal flora on
   culture
                             [**2141-1-31**]  07:16 PM
                             [**2141-1-31**]  07:34 PM
                             [**2141-1-31**]  11:42 PM
                             [**2141-2-1**]  12:18 AM
                             [**2141-2-1**]  03:44 AM
                             [**2141-2-1**]  03:56 AM
                             [**2141-2-1**]  07:56 AM
                             [**2141-2-1**]  03:14 PM
                             [**2141-2-1**]  03:29 PM
                             [**2141-2-2**]  12:36 AM
   WBC
   7.7
   6.8
   Hct
   30.2
   29.9
   29.4
   Plt
   218
   161
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   33
   34
   33
   34
   Glucose
   116
   115
   109
   93
   Other labs: PT / PTT / INR:12.3/37.5/1.0, CK / CKMB /
   Troponin-T:291/3/0.04, ALT / AST:[**8-27**], Alk Phos / T Bili:52/0.5,
   Amylase / Lipase:/13, Differential-Neuts:70.1 %, Lymph:24.9 %, Mono:4.1
   %, Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:175 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   54F with AMS and hypotension in setting of new onset seizures likely
   [**1-17**] to presumed ingestion of clonidine, citalopram, hydroxizine, and
   trazadone tablets, +/- husband
s narcotics.
   # AMS: Extubated. Per psychiatry yesterday, still mildly delirious
   - neuro checks Q2H
 q4h
   - f/u oxycodone/hydroxyzine screen
   - ativan PRN for sz activity
   - trend electrolytes and ABGs [**Hospital1 7**] now (Aline removed yesterday)
   - Appreciate toxicology following: Bicarb gtt turned off yesterday
   early evening with q1hr EKG checks that were WNL
   - SW consult for family
 already saw husband; appreciate psych consult
   and 1:1 sitter
 will consider restarting Risperdal qHS
   .
   # Arrhythmia: Bicarb gtt off. QRS within normal limits. No bezoar seen
   by GI on EGD
   - Recheck routine EKGs q8h
   - Will check ABGs q8 hours with lactate and ionized calcium; goal
   pH<7.5
   - monitor on telemetry
   - monitor lytes and aggressively replete per above (electrolytes more
   stable now)
   # Parapneumonic effusion: Seen on CXR, likely in setting of RML/RLL
   aspiration
   - Will monitor by EKG
   # Suicidal Ideation: Presumed
   - Social Work c/s for family appreciated
   - Psychiatry following also appreciated; patient with 1:1 sitter now
   # Hypotension: Presumed [**1-17**] clonidine intake, now extubated and still
   with relative hypotension
   - [**Name2 (NI) 133**] continue to monitor
   - Goal UOP>30cc/hr, MAP>65
   .
   # Leukocytosis/fever: Sputum gram stain showed GPC and GNdiplococci..
   Likely aspiration during cardioversion/seizure/intubation. WBC
   gradually improving, no low-grade fevers X~24 hours
   - Monitor for sepsis, UOP >30cc/hr, MAP>65
   - On Vanc/Meropenem Day [**3-23**] given concerns for lowering seizure
   threshold and widening QRS (as pt already has); increased Vancomycin
   yesterday and will check trough tomorrow morning
   - Follow-up blood, urine cultures
   # Swollen L hand: Likely [**1-17**] IV attempts. No evidence of cellulites.
   - monitor
   - warm packs, elevation
   .
   # Asthma: Stable
   - Off home meds
   .
   # FEN: NPO for now, has NGT for suctioning only. If extubated today,
   will swallow trial at bedside and possibly advance diet or start TPN
   # PPhx: sq hep
   # COMMUNICATION: husband- h- [**Telephone/Fax (1) 13324**], c[**Telephone/Fax (1) 13325**]
   # Access: IJ, 20 gauge PIV
   # Code status: full, confirmed
   # Dispo: ICU for now
 intubated, sedated
 CARDIAC DYSRHYTHMIA OTHER
 POISONING / OVERDOSE, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-29**] 05:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-02-02 10:03:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: overdose, respiratory failure, VT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-2-1**] 12:15 PM
 ARTERIAL LINE - STOP [**2141-2-1**] 08:48 PM
   Extubated successfully and now on nasal cannula
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   Penicillin G
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-1-30**] 11:30 AM
   Levofloxacin - [**2141-1-30**] 09:12 PM
   Aztreonam - [**2141-1-30**] 10:50 PM
   Meropenem - [**2141-2-2**] 05:13 AM
   Vancomycin - [**2141-2-2**] 08:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-2-1**] 04:36 PM
   Other medications:
   reviewed from [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2141-2-2**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 96 (80 - 97) bpm
   BP: 103/61(71) {92/57(66) - 103/66(74)} mmHg
   RR: 18 (9 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.2 kg (admission): 63.1 kg
   Height: 64 Inch
   CVP: 10 (7 - 334)mmHg
   Total In:
                                                                  3,137 mL
                                                                    880 mL
   PO:
                                                                    540 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,597 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    865 mL
   Urine:
                                                                  2,840 mL
                                                                    865 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    197 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.50/42/103/31/8
   PaO2 / FiO2: 5,150
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, left hand edema improved
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   161 K/uL
   93 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   29.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2141-1-31**]  07:16 PM
                             [**2141-1-31**]  07:34 PM
                             [**2141-1-31**]  11:42 PM
                             [**2141-2-1**]  12:18 AM
                             [**2141-2-1**]  03:44 AM
                             [**2141-2-1**]  03:56 AM
                             [**2141-2-1**]  07:56 AM
                             [**2141-2-1**]  03:14 PM
                             [**2141-2-1**]  03:29 PM
                             [**2141-2-2**]  12:36 AM
   WBC
   7.7
   6.8
   Hct
   30.2
   29.9
   29.4
   Plt
   218
   161
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   33
   34
   33
   34
   Glucose
   116
   115
   109
   93
   Other labs: PT / PTT / INR:12.3/37.5/1.0, CK / CKMB /
   Troponin-T:291/3/0.04, ALT / AST:[**8-27**], Alk Phos / T Bili:52/0.5,
   Amylase / Lipase:/13, Differential-Neuts:70.1 %, Lymph:24.9 %, Mono:4.1
   %, Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:175 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   54-year-old woman with encephalopathy, shock, seizures, and respiratory
   failure in the setting of suspected polysubstance overdose.  Exact
   etiologic [**Doctor Last Name **] unclear; per tox, hydroxyzine might be culprit.  All of
   these have improved.
   Poisoning/overdose
          Likely cause of encephalopathy, seizures, and shock (all
   resolved).
          Telemetry, serial EKGs and labs
          Psych consult / sitter as recommended
   VAP
   Suspect VAP given CXR findings and fever
   Follow cultures for other causes and maintain vigilance
   Not enough fluid to tap by bedside ultrasound
   Complete 8d course of ABX (now d4) given improved fever curve.
   Left hand edema
   Stable to improved
   Support Lines
   D/C CVL
   D/C Foley
   Art line out yesterday
   Other issues as per ICU team note.
   To floor
   ICU Care
   Nutrition: oral diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-1-29**] 05:16 PM
   20 Gauge - [**2141-2-2**] 08:20 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: